US06221865B1
4-Fluoro-2-phenyl benzoic acid methyl ester
A solution of methyl 4-amino-2-phenylbenzoate (1.0 equivalent) in dilute aqueous HBF4 is treated with NaNO2 (1.1 equivalents) until an excess of nitrous acid persists. The mixture is extracted into ethyl acetate which is dried and evaporated. The title ester is purified by chromatography on silica gel.

reactant | methyl 4-amino-2-phenylbenzoate | 1.0 equivalent | NC1=CC(=C(C(=O)OC)C=C1)C1=CC=CC=C1 | C14H13NO2
reactant | NaNO2 | 1.1 equivalents | N(=O)[O-].[Na+]
reactant | nitrous acid | N(=O)O | HNO2
reactant | HBF4 | [H+].[B-](F)(F)(F)F
product | 4-Fluoro-2-phenyl benzoic acid methyl ester | COC(C1=C(C=C(C=C1)F)C1=CC=CC=C1)=O | C14H11FO2
